US04563459
3.31 g (0.01 mol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid and 3.9 g of methyl vinyl ketone are heated under reflux in 50 ml of ethanol for 2 hours. The solid is filtered off with suction and washed with methanol to give 2.5 g (62.3% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(3-oxobutyl)-1-piperazinyl]-3-quinolinecarboxylic acid of decomposition point 185°-187° C.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.01 mol, 3.31 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | methyl vinyl ketone | 3.9 g | C(=C)C(=O)C | C4H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(3-oxobutyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 2.5 g, 62.3% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CCC(C)=O)F)=O)C(=O)O | C21H24FN3O4
